US06750232B2
4,6-Di(3-fluorophenyl)-2-oxo-1,2-dihydro-3-pyridinecarbonitrile
(E)-1,3-Di(3-fluorophenyl)-2-propen-1-one (16.4 g, 67.2 mmol), 2-cyanoacetamide (6.21 g, 73.9 mmol), and a solution of potassium t-butoxide (30.2 g, 269 mmol) in dimethyl sulfoxide (131 mL) were stirred overnight at room temperature in an oxygen atmosphere. Water (300 mL) and 6 N hydrochloric acid (390 mL) were added to the reaction solution. The solid was collected by filtration and washed with water, to give the title compound (17.4 g, 84%).

reactant | (E)-1,3-Di(3-fluorophenyl)-2-propen-1-one | 67.2 mmol, 16.4 g | FC=1C=C(C=CC1)C(\C=C\C1=CC(=CC=C1)F)=O | C15H10F2O
reactant | 2-cyanoacetamide | 73.9 mmol, 6.21 g | C(#N)CC(=O)N | C3H4N2O
reactant | potassium t-butoxide | 269 mmol, 30.2 g | CC(C)([O-])C.[K+]
reactant | oxygen | O=O | O2
reactant | hydrochloric acid | 6 N, 390 mL | Cl | ClH
solvent | dimethyl sulfoxide | 131 mL | CS(=O)C | C2H6OS
solvent | Water | 300 mL | O | H2O
product | 4,6-Di(3-fluorophenyl)-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 17.4 g, 84% | FC=1C=C(C=CC1)C1=C(C(NC(=C1)C1=CC(=CC=C1)F)=O)C#N | C18H10F2N2O
